US07858623B2
Step 2: Benzyl 1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylate.
To a stirring suspension of benzyl 5-hydroxy-3-methyl-1-phenyl-1H-pyrazole-4-carboxylate (3380 mg, 11 mmol) in chlorobenzene (30 mL) at 10° C. under nitrogen was added trimethylaluminum (16 mL, 33 mmol, 2M in toluene). Internal temperature reached 27° C. At 25° C., 1,2-epoxy-2-methylpropane (1000 mg, 16 mmol) was added. The reaction mixture was stirred for 3 h at 25° C., and then diluted with THF (500 mL). The resultant was chilled to 10° C., and sodium sulfate decahydrate (2 g) was added. After 1 hr, another 2 g of sodium sulfate decahydrate added. After 2 h, the gel was filtered through a bed of celite and washed with EtOAc (3×100 mL). The filtrate was then washed with aq. 1 M HCl (50 mL) and brine. The organic layer was dried over MgSO4. and concentrated. The residue was purified on 120 g silica chromatography (30>90% EtOAc/hex). To give the title compound (1.11 g, 27% yield) as an amorphous solid. MS (ESI pos. ion) m/z: 381 (MH+). Calc'd exact mass for C22H24N2O4 380.

reactant | benzyl 5-hydroxy-3-methyl-1-phenyl-1H-pyrazole-4-carboxylate | 11 mmol, 3380 mg | OC1=C(C(=NN1C1=CC=CC=C1)C)C(=O)OCC1=CC=CC=C1 | C18H16N2O3
reactant | trimethylaluminum | 33 mmol, 2M, 16 mL | C[Al](C)C
reactant | 1,2-epoxy-2-methylpropane | 16 mmol, 1000 mg | O1CC1(C)C | C4H8O
reactant | sodium sulfate decahydrate | 2 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium sulfate decahydrate | 2 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | chlorobenzene | 30 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | Benzyl 1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylate | 1.11 g, 27% yield | OC(CN1N(C(C(=C1C)C(=O)OCC1=CC=CC=C1)=O)C1=CC=CC=C1)(C)C | C22H24N2O4
